### PR TITLE
Add Erdős Problem 703 (forbidden intersections), link the formal proof

### LINKED ISSUE #6357: Erdős Problem 703
### What is the Erdős problem?

https://www.erdosproblems.com/703

Let $r\geq 1$ and define $T(n,r)$ to be maximal such that there exists a family $\mathcal{F}$ of subsets of $\{1,\ldots,n\}$ of size $T(n,r)$ such that $\lvert A\cap B\rvert\neq r$ for all $A,B\in \mathcal{F}$. Estimate $T(n,r)$ for $r\geq 2$. In particular, is it true that for every $\epsilon>0$ there exists $\delta>0$ such that for all $\epsilon n<r<(1/2-\epsilon) n$ we have $T(n,r)<(2-\delta)^n$?

Status: proved (Frankl–Rödl [FrRo87]). A formal proof exists in plby/lean-proofs (`Erdos703.erdos_703`, Codex and GPT-5.6 Sol).

### [AMS categories](https://github.com/google-deepmind/formal-conjectures/labels?q=ams-)

* ams-05

### Choose either option
- [x] I plan on adding this Erdős problem to the repository
- [ ] This issue is up for grabs: I would like to see this Erdős problem added by somebody else

### PR DESCRIPTION
**Pull request by Konamiu**
Fixes #6357.

### What changed
Adds `FormalConjectures/ErdosProblems/703.lean` with `T n r` (the largest family of subsets of `Fin n` with no two members — including a member with itself — meeting in exactly `r` points):
- `erdos_703` (`research solved`, `answer(True)`, $250): the Frankl–Rödl forbidden-intersection theorem `T(n, r) < (2 - δ)ⁿ` for `εn < r < (1/2 - ε) n`. Linked to plby/lean-proofs `Erdos703.erdos_703` (Codex and GPT-5.6 Sol; 5 Mathlib-only files).
- Sorry'd variants: `T(n, 0) = 2^{n-1}` and the Frankl–Füredi exact extremal families for fixed `r`.

### How checked
- Rebuilt plby's closure against this repo's Mathlib: `#print axioms Erdos703.erdos_703` → `[propext, Classical.choice, Quot.sound]`.
- Bridge compiled against the new statement on top of a renamed copy, same axioms (plby works with subsets of `range n` in `ℕ`; the bridge transports families in both directions):

<details>
<summary>Bridge</summary>

```lean
open Finset

namespace Bridge703

/-- Subsets of `Fin n` as subsets of `range n`. -/
def toNat {n : ℕ} (A : Finset (Fin n)) : Finset ℕ := A.map Fin.valEmbedding

lemma toNat_subset {n : ℕ} (A : Finset (Fin n)) : toNat A ⊆ range n := by
  intro x hx
  obtain ⟨i, -, rfl⟩ := Finset.mem_map.1 hx
  exact Finset.mem_range.2 i.2

lemma toNat_inter {n : ℕ} (A B : Finset (Fin n)) : toNat (A ∩ B) = toNat A ∩ toNat B :=
  Finset.map_inter _ _

lemma card_toNat {n : ℕ} (A : Finset (Fin n)) : (toNat A).card = A.card := Finset.card_map _

lemma toNat_injective {n : ℕ} : Function.Injective (toNat (n := n)) :=
  fun _ _ h => Finset.map_injective _ h

lemma T_eq (n r : ℕ) : Erdos703.T n r = Erdos703Plby.T n r := by
  classical
  unfold Erdos703.T Erdos703Plby.T
  apply le_antisymm
  · refine csSup_le ⟨0, ∅, by simp, rfl⟩ ?_
    rintro k ⟨𝓕, h𝓕, rfl⟩
    have hmem : 𝓕.image toNat ∈ ((range n).powerset.powerset).filter
        (Erdos703Plby.AvoidsRIntersection r) := by
      rw [Erdos703Plby.mem_admissibleFamilies_iff]
      refine ⟨fun A hA => ?_, fun A hA B hB => ?_⟩
      · obtain ⟨A', -, rfl⟩ := Finset.mem_image.1 hA
        exact Finset.mem_powerset.2 (toNat_subset A')
      · obtain ⟨A', hA', rfl⟩ := Finset.mem_image.1 hA
        obtain ⟨B', hB', rfl⟩ := Finset.mem_image.1 hB
        rw [← toNat_inter, card_toNat]
        exact h𝓕 A' hA' B' hB'
    have := Finset.le_sup (f := Finset.card) hmem
    rwa [Finset.card_image_of_injective _ toNat_injective] at this
  · refine Finset.sup_le fun 𝓕 h𝓕 => ?_
    rw [Erdos703Plby.mem_admissibleFamilies_iff] at h𝓕
    refine le_csSup ⟨2 ^ n, ?_⟩ ⟨Erdos703Plby.toFinFamily n 𝓕, ?_, Erdos703Plby.card_toFinFamily h𝓕.1⟩
    · rintro k ⟨𝓖, -, rfl⟩
      calc 𝓖.card ≤ (univ : Finset (Finset (Fin n))).card := Finset.card_le_univ 𝓖
        _ = 2 ^ n := by simp
    · intro A hA B hB
      have := Erdos703Plby.toFinFamily_crossAvoids h𝓕.1 h𝓕.2 A hA B hB
      rcases this with h | h <;> omega

theorem erdos_703_bridge : type_of% Erdos703.erdos_703 := by
  show True ↔ _
  simp only [true_iff, T_eq]
  exact Erdos703Plby.erdos_703

#print axioms Erdos703Plby.erdos_703
#print axioms erdos_703_bridge

end Bridge703
```
</details>

- `lake --wfail build FormalConjectures.ErdosProblems.«703»` passes.

### CODE REVIEW

File: FormalConjectures/ErdosProblems/703.lean [hunk 1]
```diff
@@ -0,0 +1,99 @@
+/-
+Copyright 2025 The Formal Conjectures Authors.
```
Comment (mo271) [inline FormalConjectures/ErdosProblems/703.lean]:
```suggestion
Copyright 2026 The Formal Conjectures Authors.
```

**Review by mo271 — APPROVED** [review]
